US06953857B2
(ii) 5-[2-(2,4-Dichloro-phenyl)-ethoxy]-isophthalic acid
500 mg 5-[2-(2,4-Dichloro-phenyl)-ethoxy]-isophthalic acid dimethyl ester were dissolved in 50 ml of MeOH:water/3:1. Then 1 g of lithium hydroxide monohydrate was added the solution, and the reaction was stirred at RT for 16 h and 2 h at 50° C. The solution was cooled to RT and then acidified with half-concentrated hydrochloric acid. The suspension was concentrated under reduced pressure and then extracted with ethylacetate. The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure to yield a white solid.

reactant | 5-[2-(2,4-Dichloro-phenyl)-ethoxy]-isophthalic acid dimethyl ester | 500 mg | COC(C1=CC(C(=O)OC)=CC(=C1)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C18H16Cl2O5
reactant | water | O | H2O
reactant | lithium hydroxide monohydrate | 1 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH | 50 ml | CO | CH4O
product | 5-[2-(2,4-Dichloro-phenyl)-ethoxy]-isophthalic acid | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C=C(C(=O)O)C1)C(=O)O | C16H12Cl2O5
